US06649656B1
Synthesis of 4-(6-benzyloxy-2-naphthoxy)phenylacetic acid
An aqueous solution (10 ml) of 50% sodium hydroxide was added to 70% ethanol solution (50 ml) of the 1-(morpholin-4-yl)-2-(4-(6-benzyloxyphenoxy-2-naphthyloxy)phenyl)-ethane-1-thione (3.73 g, 7.94 mmol) obtained by the Reference Example 3 and the mixture was stirred at 100° C. for a night. After completing the reaction, the reaction liquid was added with 6N hydrochloric acid to adjust the pH to about 2, extracted with ethyl acetate, washed with water, dried with magnesium sulfate and concentrated. The obtained crude product was recrystallized from acetonitrile to obtain the subject compound (2.10 g, 5.46 mmol). The result of 1H-NMR was consistent with the above structure.

reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | 1-(morpholin-4-yl)-2-(4-(6-benzyloxyphenoxy-2-naphthyloxy)phenyl)-ethane-1-thione | 7.94 mmol, 3.73 g | N1(CCOCC1)C(CC1=CC=C(C=C1)OC1=C(C2=CC=CC=C2C=C1)OC1=CC=CC=C1OCC1=CC=CC=C1)=S | C35H31NO4S
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(6-benzyloxy-2-naphthoxy)phenylacetic acid | 5.46 mmol, 2.10 g, Yield: 69% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)OC1=CC=C(C=C1)CC(=O)O | C25H20O4
